6
L1 1 0 1E-3 IC=0
L2 2 0 0.25E-3
L3 3 0 0.1111111111E-3
C1 1 0 1E-6 IC=1
C2 2 0 1E-6 IC=1
C3 3 0 1E-6 IC=1
E4 4 0 3 0 1
E5 5 4 2 0 1
E6 6 5 1 0 1
.TRAN 0.003 0.0003E-3 GEAR 1 UIC
